US06329381B1
6-Amino-9-benzyl-8-hydroxy-2-{[2-(2-hydroxyethylthio)ethyl]thio}purine
Crude 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine (134 mg, 0.49 mmol) was suspended in dimethylformamide (50 ml). To the suspension were added potassium carbonate (100 mg, 0.73 mmol) and 2-(2-chloroethyl)thioethanol (170 mg, 1.2 mmol) in order. The mixture was stirred at room temperature for 24 hours. To the reaction mixture were added 2N hydrochloric acid and then 28% aqueous ammonia. The mixture was extracted with chloroform, the organic layer was dried on magnesium sulfate and then the solvent was removed in vacuo. The residue was purified by silica gel chromatography (5% methanol/chloroform) to give the subject compound (17 mg, yield 6%).

reactant | 6-amino-9-benzyl-8-hydroxy-2-mercaptopurine | 0.49 mmol, 134 mg | NC1=C2N=C(N(C2=NC(=N1)S)CC1=CC=CC=C1)O | C12H11N5OS
reactant | potassium carbonate | 0.73 mmol, 100 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 2-(2-chloroethyl)thioethanol | 1.2 mmol, 170 mg | ClCCSCCO | C4H9ClOS
reactant | hydrochloric acid | 2N | Cl | ClH
reactant | ammonia | N | H3N
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 6-Amino-9-benzyl-8-hydroxy-2-{[2-(2-hydroxyethylthio)ethyl]thio}purine | 17 mg, yield 6% | NC1=C2N=C(N(C2=NC(=N1)SCCSCCO)CC1=CC=CC=C1)O | C16H19N5O2S2
